US09340528B2
Step A: Preparation of 7-(4-fluoro-3-nitrophenyl)-2-(morpholin-4-yl)quinoxalin
To a suspension of 7-bromo-2-morpholin-4-yl-quinoxaline (1 g, 3.4 mmol), potassium carbonate (0.56 g, 4.1 mmol) and [1,1,-Bis(diphenlyphosphino)ferrocene]palladium(II)chloride (0.83 g, 1.0 mmol) in THF (38 mL) and water (3.8 mL) was added (4-fluoro-3-nitrophenyl)boronic acid (1.26 g, 6.8 mmol). The reaction mixture was allowed to reflux for 6 h. After cooling to room temperature, the solvent was removed and the residue was purified by chromatography (silica gel, Hexane/EtOAc: 20%->100% EtOAc) giving rise to 1.1 g (92%) of the desired product.

reactant | 7-bromo-2-morpholin-4-yl-quinoxaline | 3.4 mmol, 1 g | BrC1=CC=C2N=CC(=NC2=C1)N1CCOCC1 | C12H12BrN3O
reactant | potassium carbonate | 4.1 mmol, 0.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | (4-fluoro-3-nitrophenyl)boronic acid | 6.8 mmol, 1.26 g | FC1=C(C=C(C=C1)B(O)O)[N+](=O)[O-] | C6H5BFNO4
solvent | THF | 38 mL | C1CCOC1 | C4H8O
solvent | water | 3.8 mL | O | H2O
product | 7-(4-fluoro-3-nitrophenyl)-2-(morpholin-4-yl)quinoxalin | 1.1 g, 92% | FC1=C(C=C(C=C1)C1=CC=C2N=CC(=NC2=C1)N1CCOCC1)[N+](=O)[O-] | C18H15FN4O3
